US08614290B2
TBTU/HOBt Coupling (General Procedure)
A solution of Fmoc-Xaa-OH (2 eq.), TBTU (2 eq.), HOBt (hydroxybenzotriazole) (2 eq.), DIEA (5.2 eq.) in NMP (1 ml/g resin) was added to the resin-bound free amine peptide and shaken for 60 min at room temperature and washed with NMP (5×).

reactant | TBTU | 2 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBt | 2 eq. | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | DIEA | 5.2 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | CN1CCCC1=O | C5H9NO
product | TBTU HOBt | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F.C=1C=CC2=C(C1)N=NN2O | InChI=1S/C11H16N5O.C6H5N3O.BF4/c1-14(2)11(15(3)4)17-16-10-8-6-5-7-9(10)12-13-16;10-9-6-4-2-1-3-5(6)7-8-9;2-1(3,4)5/h5-8H,1-4H3;1-4,10H;/q+1;;-1
